US05958942
5-[2-[4-(Amino)phenyl]ethan-1-ylamino]-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine
A mixture of 4.07 g (17.1 mmol) of 5-chloro-3-ethoxycarbonyl-2-methylimidazo[1,2-a)pyridine, 3.48 g (25.6 mmol) of 2-(4-aminophenyl)ethylamine and 4.41 g (34.1 mmol) of N,N-diisopropylethylamine in 60 ml of acetonitrile was heated for 64 hours under reflux with stirring. After cooling, the solvent was distilled off. To the residue was added chloroform. The residue was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: chloroform/methanol=30:1) and recrystallized from ethyl acetate-n-hexane to give 4.37 g of the desired compound (75.7%, pale brown crystals).

reactant | 5-chloro-3-ethoxycarbonyl-2-methylimidazo[1,2-a)pyridine | 17.1 mmol, 4.07 g | ClC1=CC=CC=2N1C(=C(N2)C)C(=O)OCC | C11H11ClN2O2
reactant | 2-(4-aminophenyl)ethylamine | 25.6 mmol, 3.48 g | NC1=CC=C(C=C1)CCN | C8H12N2
reactant | N,N-diisopropylethylamine | 34.1 mmol, 4.41 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-[2-[4-(Amino)phenyl]ethan-1-ylamino]-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine | 4.37 g, 75.7% | NC1=CC=C(C=C1)CCNC1=CC=CC=2N1C(=C(N2)C)C(=O)OCC | C19H22N4O2
